US08536165B2
A. Tert-butyl 4-(trifluoromethyl)phenylcarbamate
A mixture of 4-trifluoromethylaniline (40 mmol, 5 ml), di-tert-butylcarbonate (40 mmol, 8.7 g), 1N solution of aqueous NaOH (20 ml) in THF (20 ml) was stirred at room temperature for 12 hours. di-tert-butylcarbonate (20 mmol, 4.2 g), 1N solution of aqueous NaOH (20 ml) were added and the mixture was stirred at room temperature for 24 hours. The solvent was evaporated and EtOAc was added. The solution was washed with 2N HCl aqueous solution and brine and then evaporated. The crude mixture was purified by chromatography over SiO2 eluting with hexane/EtOAc mixtures and affording 9.3 g (yield 90%) of the expected product.

reactant | 4-trifluoromethylaniline | 40 mmol, 5 ml | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | di-tert-butylcarbonate | 40 mmol, 8.7 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | di-tert-butylcarbonate | 20 mmol, 4.2 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | NaOH | 20 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Tert-butyl 4-(trifluoromethyl)phenylcarbamate | 9.3 g, yield 90% | FC(C1=CC=C(C=C1)NC(OC(C)(C)C)=O)(F)F | C12H14F3NO2
